US07462623B2
7-(2-chloroethoxy)-4-(5-chloro-2,3-methylenedioxypyrid-4-ylamino)-5-tetrahydropyran-4-yloxyquinazoline
Using an analogous procedure to that described in Example 1, 4-chloro-7-(2-chloroethoxy)-5-tetrahydropyran-4-yloxyquinazoline was reacted with 4-amino-5-chloro-2,3-methylenedioxypyridine to give the title compound in 37% yield; NMR Spectrum: (CDCl3) 2.0 (m, 2H), 2.3 (m, 2H), 3.65 (m, 2H), 3.9 (m, 2H), 4.1 (m, 2H), 4.4 (m, 2H), 4.8 (m, 1H), 6.2 (s, 2H), 6.65 (s, 1H), 6.9 (s, 1H), 7.8 (s, 1H), 8.6 (s, 1H), 9.5 (s, 1H); Mass Spectrum: M+H+ 479 and 481.

reactant | 4-chloro-7-(2-chloroethoxy)-5-tetrahydropyran-4-yloxyquinazoline | ClC1=NC=NC2=CC(=CC(=C12)OC1CCOCC1)OCCCl | C15H16Cl2N2O3
reactant | 4-amino-5-chloro-2,3-methylenedioxypyridine | NC1=C2C(=NC=C1Cl)OCO2 | C6H5ClN2O2
product | 7-(2-chloroethoxy)-4-(5-chloro-2,3-methylenedioxypyrid-4-ylamino)-5-tetrahydropyran-4-yloxyquinazoline | 37% yield | ClCCOC1=CC(=C2C(=NC=NC2=C1)NC1=C2C(=NC=C1Cl)OCO2)OC2CCOCC2 | C21H20Cl2N4O5
